US06518293B2
4-(3,5-Dichlorophenylthio)-5-(2-hydroxybenzyl)-3-isopropyl-1-methyl-1,3-dihydro -2-imidazolone
To a solution of 100 mg of 4-(3,5-dichlorophenylthio)-5-(hydroxymethyl)-3-isopropyl-1-methyl-1,3-dihydro-2-imidazolone, 30 mg of phenol and 100 mg of triphenylphosphine in 5 mL of tetrahydrofuran at 0° C. was added 70 μL of diisopropylazodicarboxylate in 5 mL of tetrahydrofuran over 20 min. The reaction was stirred overnight warming to room temperature. The mixture was then diluted with ethyl acetate and washed with 0.5N hydrochloric acid solution then 0.5N sodium hydroxide solution, dried, concentrated and purified by flash chromatography eluting with 3:1 hexane: ethyl acetate to give 16 mg of a colourless oil. Mass spectrum (ES) m/z 423 [M+H]+.

reactant | 4-(3,5-dichlorophenylthio)-5-(hydroxymethyl)-3-isopropyl-1-methyl-1,3-dihydro-2-imidazolone | 100 mg | ClC=1C=C(C=C(C1)Cl)SC=1N(C(N(C1CO)C)=O)C(C)C | C14H16Cl2N2O2S
reactant | phenol | 30 mg | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 100 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 70 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3,5-Dichlorophenylthio)-5-(2-hydroxybenzyl)-3-isopropyl-1-methyl-1,3-dihydro -2-imidazolone | 16 mg | ClC=1C=C(C=C(C1)Cl)SC=1N(C(N(C1CC1=C(C=CC=C1)O)C)=O)C(C)C | C20H20Cl2N2O2S
